US06900318B1
3) 4-(2-(1,4,5,6-Tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoic Acid
305 g (0.85 mol) of benzyl 4-(2-(pyrimidin-2-ylcarbamoyl)vinyl)benzoate were hydrogenated in a 20 l Būchi autoclave in 8 l of 20% aqueous acetic acid in the presence of 25 g of 10% palladium/charcoal at, 40° C. under a hydrogen pressure of 2 bar. After 6 h and uptake of 65.76 l of hydrogen the reaction was finished. After standing overnight the mixture was warmed to 70° C. and the catalyst filtered off. The autoclave was washed with 3 l of 20% aqueous acetic acid at 70° C. The catalyst was washed with 1.5 l of 20% aqueous acetic acid at 70° C. The filtrate was evaporated under reduced pressure in a rotary evaporator and the residue was dissolved in 1 l of water with heating. Upon cooling to room temperature the product precipitated. The mixture was cooled to 0° C. to 5° C., the product was filtered off, washed with cold water and dried under reduced pressure at 50° C. Yield: 212 g (90.6%).

reactant | benzyl 4-(2-(pyrimidin-2-ylcarbamoyl)vinyl)benzoate | 0.85 mol, 305 g | N1=C(N=CC=C1)NC(=O)C=CC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C21H17N3O3
reactant | hydrogen | 65.76 l | [H][H] | H2
solvent | acetic acid | 8 l | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | 25 g | [Pd] | Pd
product | 4-(2-(1,4,5,6-Tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoic Acid | N1C(=NCCC1)NC(=O)CCC1=CC=C(C(=O)O)C=C1 | C14H17N3O3
